US09447035B2
To a suspension of (S)-2-(4-bromo-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester (5.78 g, 10 mmol), zinc cyanide (940 mg, 8 mmol), and tetrakis(triphenylphosphine)palladium (1.16 g, 1 mmol) in DMF (40 mL, distilled and degassed) at room temperature. The resulting solution was heated to 85° C. and stirred for 24 h at which time TLC analysis of the mixture indicated the absence of starting material. Then, the reaction mixture was cooled to room temperature and it was poured into water (100 mL) to afford a cloudy suspension. Then, the organic compound was extracted with ethyl acetate (2×100 mL). The combined extracts were washed with brine solution (100 mL) and dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent gave the crude product which was purified using an ISCO (150 g) column chromatography to afford 5.2 g (99% yield) of (S)-2-(4-cyano-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester as an amorphous white solid. ES-HRMS m/e calcd for C27H26F2N4O5(M+H)+ 525.1944, found 525.1942.

reactant | (S)-2-(4-bromo-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | 10 mmol, 5.78 g | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1F)Br)F)=O)=O | C26H26BrF2N3O5
reactant | water | 100 mL | O | H2O
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 8 mmol, 940 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 1 mmol, 1.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-(4-cyano-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | 5.2 g, 99% yield | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1F)C#N)F)=O)=O | C27H26F2N4O5
